US09056858B2
To a stirred 0° C. solution of (2-bromo-pyridin-4-yl)-methanol (3.00 g, 16.0 mmol) and N,N-diisopropylethylamine (8.3 mL, 48 mmol) in dichloromethane (30 mL) is added methanesulfonyl chloride (1.30 mL, 16.8 mmol). The resulting mixture is warmed to room temperature. After 1 hour, the mixture is diluted with dichloromethane (20 mL) and washed with saturated aqueous ammonium chloride (3×10 mL), saturated aqueous sodium bicarbonate (10 mL), brine (10 mL), dried over MgSO4, filtered and concentrated to afford crude methanesulfonic acid 2-bromo-pyridin-4-ylmethyl ester, which is used without purification.

reactant | (2-bromo-pyridin-4-yl)-methanol | 16.0 mmol, 3.00 g | BrC1=NC=CC(=C1)CO | C6H6BrNO
reactant | N,N-diisopropylethylamine | 48 mmol, 8.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 16.8 mmol, 1.30 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-bromo-pyridin-4-ylmethyl ester | BrC1=NC=CC(=C1)COS(=O)(=O)C | C7H8BrNO3S
